US09284331B2
9-ethyl-2-(4-isopropyl-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one
To a degassed solution of 9-iodo-2-(4-isopropyl-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (20 mg, 0.045 mmol) and PdCl2(dppf)-CH2Cl2 adduct (2 mg, 2.24 μmol) in dioxane (1 mL) was added diethylzinc (135 μL, 0.135 mmol, 1M in hexane) and the mixture was heated in the microwave at 80° C. for 44 h. The reaction mixture was allowed to warm to rt and then diluted with AcOEt and 2M aqueous HCl. The organic phase was separated, dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by SFC (column: Diol 5 μm, 250×30 mm, 60 A, Princeton; eluent: 7% MeOH/CO2 for 1 min, then from 7% MeOH/CO2 to 12% MeOH/CO2 in 6 min; flow 100 mL/min; UV detection at 220 nm) to yield the title compound (5 mg). UPLC-MS: MS 349.2 (M+H+); UPLC rt 1.01 min. 1H NMR (400 MHz, CHLOROFORM-d): δ ppm 1.21-1.28 (m, 9 H) 2.72 (q, J=7.4 Hz, 2 H) 2.85-2.92 (m, 1 H) 2.96 (t, J=6.2 Hz, 2 H) 3.91 (t, J=6.3 Hz, 2 H) 4.35 (br. s., 2 H) 6.61 (s, 1 H) 7.18 (s, 1 H) 7.27-7.38 (m, 2 H) 7.52 (d, J=7.3 Hz, 1 H) 7.93 (s, 1 H).

reactant | 9-iodo-2-(4-isopropyl-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.045 mmol, 20 mg | IC1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)C(C)C | C19H19IN4O
reactant | diethylzinc | 0.135 mmol, 1M, 135 μL | C(C)[Zn]CC
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | HCl | 2M | Cl | ClH
catalyst | PdCl2(dppf) CH2Cl2 | 2.24 μmol, 2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 9-ethyl-2-(4-isopropyl-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 5 mg | C(C)C1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)C(C)C | C21H24N4O
